US09108969B2
Step B: Preparation of 2-(7-(4-Cyclopentyl-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic Acid
tert-Butyl 2-(7-(4-cyclopentyl-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate (0.800 g, 1.558 mmol) was added to a solution of 2-amino-3-mercaptopropanoic acid (0.189 g, 1.558 mmol) in TFA (10 mL). The reaction mixture was stirred at 23° C. for 15 min in a 20 mL sealed scintillation vial. After 15 min the reaction mixture was poured into ice water and a precipitate formed. The precipitate was collected by filtration, washed with hexanes (3×20 mL) and dried (vacuum oven) to provide the title compound as a white solid (0.595 g). LCMS m/z=458.4 [M+H]+; 1H NMR (400 MHz, DMSO-d6) δ ppm 1.53-1.74 (m, 4H), 1.79-1.89 (m, 2H), 1.94-2.04 (m, 2H), 2.15-2.26 (m, 1H), 2.51-2.69 (m, 2H), 2.72-2.83 (m, 1H), 3.23-3.27 (m, 1H), 3.58 (quintet, J=7.20 Hz, 1H), 3.91-4.00 (m, 1H), 4.05-4.14 (m, 1H), 5.13 (s, 2H), 6.01 (s, 1H), 6.77 (dd, J=8.72, 2.40 Hz, 1H), 7.07 (d, J=2.27 Hz, 1H), 7.19 (d, J=8.84 Hz, 1H), 7.62 (d, J=8.08 Hz, 1H), 7.68-7.71 (m, 2H), 12.27 (s, 1H).

reactant | tert-Butyl 2-(7-(4-cyclopentyl-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate | 1.558 mmol, 0.800 g | C1(CCCC1)C1=C(C=C(COC2=CC=3C=C4N(C3C=C2)CCC4CC(=O)OC(C)(C)C)C=C1)C(F)(F)F | C30H34F3NO3
reactant | 2-amino-3-mercaptopropanoic acid | 1.558 mmol, 0.189 g | NC(C(=O)O)CS | C3H7NO2S
solvent | TFA | 10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-(7-(4-Cyclopentyl-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic Acid | 0.595 g | C1(CCCC1)C1=C(C=C(COC2=CC=3C=C4N(C3C=C2)CCC4CC(=O)O)C=C1)C(F)(F)F | C26H26F3NO3
